US05223498
Reaction of 4-methoxy-2-morpholinoaniline (4.7 g) and thiophosgene (2.9 ml) in dioxan (25 ml) and water (75 ml) for 30 minutes at 0° C. and 3 hours at room temperature yielded a residue which was extracted with dichloromethane to give 4-methoxy-2-morpholinophenyl isothiocyanate as an oil.

reactant | 4-methoxy-2-morpholinoaniline | 4.7 g | COC1=CC(=C(N)C=C1)N1CCOCC1 | C11H16N2O2
reactant | thiophosgene | 2.9 ml | C(=S)(Cl)Cl | CCl2S
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 75 ml | O | H2O
product | 4-methoxy-2-morpholinophenyl isothiocyanate | COC1=CC(=C(C=C1)N=C=S)N1CCOCC1 | C12H14N2O2S
